US06596734B1
N-[1-(3,5-dibromo-4-methoxy-benzyl)-6-hydroxy-1,2,3,4-tetrahydro-isoquinolin-7-yl]-methanesulfonamide hydrochloride.
A solution of N-[6-benzyloxy-1-(3,5-dibromo-4-methoxy-benzyl)-1,2,3,4-tetrahydroisoquinolin-7-yl]-methanesulfonamide oxalate (3.98 g, 0.0057 mol) in a mixture of conc. HCl (50 mL) and methanol (50 mL) was refluxed for 1h, cooled and concentrated. A residue was crystallized from methanol—ethyl ether mixture. Yield 2.75 g (87%), M.p. 244-245° C. (dec.). 1H NMR (300 MHz, DMSO) δ 2.9 (s, 3H), 2.95-3.22 (m, 4H), 3.25-3.45 (m, 2H), 3.79 (s, 3H), 4.67 (m, 1H), 6.75 (s, 1H), 7.15 (s, 1H), 7.79 (s, 2H), 8.84 (s, 1H), 9.26 (d, J=12.6 Hz, 2H), 10.18 (s, 1H). Anal. (C18H21Br2ClN2O4S) calcd., C 38.83, H 3.80, N 5.03; found C 38.91, N 4.83.

reactant | N-[6-benzyloxy-1-(3,5-dibromo-4-methoxy-benzyl)-1,2,3,4-tetrahydroisoquinolin-7-yl]-methanesulfonamide oxalate | 0.0057 mol, 3.98 g | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1NS(=O)(=O)C)CC1=CC(=C(C(=C1)Br)OC)Br
reactant | HCl | 50 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | N-[1-(3,5-dibromo-4-methoxy-benzyl)-6-hydroxy-1,2,3,4-tetrahydro-isoquinolin-7-yl]-methanesulfonamide hydrochloride | Cl.BrC=1C=C(CC2NCCC3=CC(=C(C=C23)NS(=O)(=O)C)O)C=C(C1OC)Br | InChI=1S/C18H20Br2N2O4S.ClH/c1-26-18-13(19)5-10(6-14(18)20)7-15-12-9-16(22-27(2,24)25)17(23)8-11(12)3-4-21-15;/h5-6,8-9,15,21-23H,3-4,7H2,1-2H3;1H
